US05068325
4h) 2-Amino-6-(3-(3-nitro-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 3-nitro-cinnamyl chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H- thiazolo[5,4-d]azepine in chloroform. Yield: 56% of theory, Melting point: 165°-168° C. (ether).

reactant | 3-nitro-cinnamyl chloride | [N+](=O)([O-])C=1C=C(C=CCCl)C=CC1 | C9H8ClNO2
reactant | 2-amino-4,5,7,8-tetrahydro-6H- thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | ether | CCOCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(3-nitro-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 56% | NC=1SC=2CCN(CCC2N1)CC=CC1=CC(=CC=C1)[N+](=O)[O-] | C16H18N4O2S
